US04113877
To a solution of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate (65 mg., 0.16 millimole) in ethanol (2 ml.) is added slowly with stirring 48% hydrobromic acid (0.5 ml.) at 20° C. After standing at 20° C. for 15 minutes, the deposited solid is collected and dried to give 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate hydrobromide as a colorless solid (70 mg., 89%), m.p. 243°-244° C. with dec.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate | 0.16 millimole, 65 mg | CN(S(OC1=C(C=C(C=C1I)C(C)(C)C)CN)(=O)=O)C | C13H21IN2O3S
reactant | hydrobromic acid | 0.5 ml | Br | BrH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate hydrobromide | Br.CN(S(OC1=C(C=C(C=C1I)C(C)(C)C)CN)(=O)=O)C | InChI=1S/C13H21IN2O3S.BrH/c1-13(2,3)10-6-9(8-15)12(11(14)7-10)19-20(17,18)16(4)5;/h6-7H,8,15H2,1-5H3;1H
